US07214682B2
12.2 2,2-Dimethyl-7-(pyridin-4-yl)-2,3-dihydro-1H-imidazo[1,2-a]pyrimidin-5-one
A suspension of 4.5 g (23.2 mmol) of 5,5-dimethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide, 2.99 g (15.46 mmol) of ethyl 3-(pyridin-4-yl)-3-oxopropionate and 4.27 g (30.89 mmol) of potassium carbonate in 100 ml of ethanol was heated at reflux temperature for 18 h.

reactant | 5,5-dimethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide | 23.2 mmol, 4.5 g | Br.CC1(CN=C(N1)N)C
reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | 15.46 mmol, 2.99 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | potassium carbonate | 30.89 mmol, 4.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2-Dimethyl-7-(pyridin-4-yl)-2,3-dihydro-1H-imidazo[1,2-a]pyrimidin-5-one | CC1(NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)C1)C | C13H14N4O
